US07544697B2
Under a nitrogen atmosphere, a solution of 1-(2-aminoethyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine (0.228 g, 0.848 mmol) and N,N-diisopropylethylamine (0.604 mL, 3.39 mmol) in chloroform (6.67 mL) was cooled to 0° C. A solution of 3-chloropropanesulfonyl chloride (0.113 mL, 0.933 mmol) in chloroform (10 mL) was added. An analysis by HPLC indicated that the reaction was not progressing. N-Methylpyrrolidone (12 mL) was added, and the reaction went to completion. The solvents were removed under reduced pressure to provide N-[2-(4-amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)ethyl]-3-chloropropane-1-sulfonamide.

reactant | 1-(2-aminoethyl)-2-propyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 0.848 mmol, 0.228 g | NCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)CCC | C15H19N5
reactant | N,N-diisopropylethylamine | 3.39 mmol, 0.604 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-chloropropanesulfonyl chloride | 0.933 mmol, 0.113 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | N-Methylpyrrolidone | 12 mL | CN1C(CCC1)=O | C5H9NO
solvent | chloroform | 6.67 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(4-amino-2-propyl-2H-pyrazolo[3,4-c]quinolin-1-yl)ethyl]-3-chloropropane-1-sulfonamide | NC1=NC=2C=CC=CC2C=2C1=NN(C2CCNS(=O)(=O)CCCCl)CCC | C18H24ClN5O2S
